US05488149
Preparation of dibenzhydryl carboxymethylsuccinate
The reaction product obtained by conducting the Michael-addition reaction in the same manner as in Example 116 using 5.7 ml of a 1.5M cyclohexane solution of lithium diisopropylamide, 2.6 g of trityl acetate and 3.2 g of dibenzhydryl maleate, was dissolved in a liquid mixture of 20 ml of acetic acid and 5 ml of water, and the solution was left to stand at room temperature overnight and then evaporated to dryness under reduced pressure. The residue was subjected to silica gel column chromatography (chloroform/methanol=100/1→10/1) to obtain 1.05 g (yield: 29%) of the above-identified compound as white crystalline powder having a melting point of from 105° to 106° C.

reactant | cyclohexane | 1.5M | C1CCCCC1 | C6H12
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | trityl acetate | 2.6 g | C(C)(=O)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H18O2
reactant | dibenzhydryl maleate | 3.2 g | C(\C=C/C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C30H24O4
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water | 5 ml | O | H2O
product | dibenzhydryl carboxymethylsuccinate | 1.05 g, yield: 29% | C(=O)(O)CC(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C32H28O6
